### PR TITLE
[Merged by Bors] - feat(SkewMonoidAlgebra): algebra instance

### PR DESCRIPTION
**Pull request by xgenereux**
Algebra instance for skew monoid algebras.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -1208,4 +1207,58 @@ theorem nonUnitalAlgHom_ext' [DistribMulAction k A] {φ₁ φ₂ : SkewMonoidAlg
...
+section CommSemiring
+
+variable [Monoid G] [CommSemiring k]
+variable {A : Type*} [Semiring A] [Algebra k A]
+
+/-- The instance `Algebra k (SkewMonoidAlgebra A G)` whenever we have `Algebra k A`.
+  In particular this provides the instance `Algebra k (SkewMonoidAlgebra k G)`.
+  This requires `SmulTrivAction G k A`. -/
+instance algebra [MulSemiringAction G A]
+    [SMulCommClass G k A] : Algebra k (SkewMonoidAlgebra A G) where
```
Comment (ocfnash) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: If we were to name this manually it should be instAlgebra but in fact we should just let Lean do it so:
```suggestion
instance [MulSemiringAction G A] [SMulCommClass G k A] : Algebra k (SkewMonoidAlgebra A G) where
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 2]
```diff
@@ -1208,4 +1207,58 @@ theorem nonUnitalAlgHom_ext' [DistribMulAction k A] {φ₁ φ₂ : SkewMonoidAlg
...
+  algebraMap := singleOneRingHom.comp (algebraMap k A)
+  smul_def' r a := by
+    simp only [RingHom.coe_comp, comp_apply]
+    ext
+    simp only [coeff_smul, Algebra.smul_def, singleOneRingHom, singleAddHom, ZeroHom.toFun_eq_coe,
+      ZeroHom.coe_mk, RingHom.coe_mk, MonoidHom.coe_mk, OneHom.coe_mk, coeff_single_one_mul];
```
Comment (ocfnash) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: We might as well gather the `simp`s
```suggestion
        ext
    simp only [coeff_smul, Algebra.smul_def, singleOneRingHom, singleAddHom, ZeroHom.toFun_eq_coe,
      ZeroHom.coe_mk, RingHom.coe_comp, RingHom.coe_mk, MonoidHom.coe_mk, OneHom.coe_mk, comp_apply,
      coeff_single_one_mul]
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 3]
```diff
@@ -1208,4 +1207,58 @@ theorem nonUnitalAlgHom_ext' [DistribMulAction k A] {φ₁ φ₂ : SkewMonoidAlg
...
+  commutes' r f := by
+    simp only [RingHom.coe_comp, comp_apply]
+    ext
+    simp only [singleOneRingHom, singleAddHom, ZeroHom.toFun_eq_coe, ZeroHom.coe_mk, RingHom.coe_mk,
+      MonoidHom.coe_mk, OneHom.coe_mk, coeff_single_one_mul, Algebra.commutes, coeff_mul_single_one,
+      smul_algebraMap]
```
Comment (ocfnash) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]:
```suggestion
    ext
    simp only [singleOneRingHom, singleAddHom, ZeroHom.toFun_eq_coe, ZeroHom.coe_mk,
      RingHom.coe_comp, RingHom.coe_mk, MonoidHom.coe_mk, OneHom.coe_mk, comp_apply,
      coeff_single_one_mul, Algebra.commutes, coeff_mul_single_one, smul_algebraMap]
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 4]
```diff
@@ -1208,4 +1207,58 @@ theorem nonUnitalAlgHom_ext' [DistribMulAction k A] {φ₁ φ₂ : SkewMonoidAlg
...
 end DistribMulActionHom
 
+section CommSemiring
+
+variable [Monoid G] [CommSemiring k]
+variable {A : Type*} [Semiring A] [Algebra k A]
+
+/-- The instance `Algebra k (SkewMonoidAlgebra A G)` whenever we have `Algebra k A`.
+  In particular this provides the instance `Algebra k (SkewMonoidAlgebra k G)`.
+  This requires `SmulTrivAction G k A`. -/
```
Comment (ocfnash) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: This comment is a bit confusing because `SmulTrivAction` doesn't exist (yet?). Maybe just drop it?

**Review by ocfnash — APPROVED** [review]
Thanks! Just minor style nitpicks

bors d+

**Comment by xgenereux** [comment]
Thanks for the review!
